US08071807B2
(4-Chloro-3-hydroxy-phenyl)-acetic acid ethyl ester was reacted with 2-fluoro-5-nitrobenzaldehyde as outlined in Example 21, Step 5, to provide [4-chloro-3-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester.

reactant | (4-Chloro-3-hydroxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)O)=O | C10H11ClO3
reactant | 2-fluoro-5-nitrobenzaldehyde | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
product | [4-chloro-3-(2-formyl-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)Cl)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)=O | C17H14ClNO6
